US06509328B1
8-(2,3-Difluoro-phenyl)-4-(3-[1,2,3]triazol-1-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
Prepared from {2′,3′-difluoro-3-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K95) (118 mg, 0.22 mmol) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (74 mg). mp 230° C.

reactant | {2′,3′-difluoro-3-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester | 0.22 mmol, 118 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C(=CC=C1)F)F)NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)=O | C28H25F2N5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(2,3-Difluoro-phenyl)-4-(3-[1,2,3]triazol-1-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 74 mg | FC1=C(C=CC=C1F)C=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2N=NC=C2)=O)C1 | C23H15F2N5O
